US05550121
(2S,4R)-4-Hydroxy-2-(3-hydroxy-1-oxopropyl)pyrrolidine Monohydrochloride
(2S,4R)-N-tert-Butoxycarbonyl-4-tert-butyldimethylsiloxy-2-(3-tert-butyldimethylsiloxy-1-oxopropyl)pyrrolidine (4.87 g, 10.0 mmol) was dissolved in a 3.3N hydrogen chloride--methanol solution (16.5 ml). The solution was stirred at room temperature for 24 h, and then concentrated in vacuo to obtain the title compound (2.29 g).

reactant | (2S,4R)-N-tert-Butoxycarbonyl-4-tert-butyldimethylsiloxy-2-(3-tert-butyldimethylsiloxy-1-oxopropyl)pyrrolidine | 10.0 mmol, 4.87 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)C(CCO[Si](C)(C)C(C)(C)C)=O | C24H49NO5Si2
reactant | methanol | 16.5 ml | CO | CH4O
reactant | hydrogen chloride | 3.3N | Cl | ClH
product | (2S,4R)-4-Hydroxy-2-(3-hydroxy-1-oxopropyl)pyrrolidine Monohydrochloride | 2.29 g | Cl.O[C@@H]1C[C@H](NC1)C(CCO)=O | InChI=1S/C7H13NO3.ClH/c9-2-1-7(11)6-3-5(10)4-8-6;/h5-6,8-10H,1-4H2;1H/t5-,6+;/m1./s1
